US05057614
2.57 ml of oxalyl chloride were added to a solution of 5.7 g of 1-(2-acetoxyethyl)indole in 70 ml of dichloromethane at 0° C. The resulting solution was stirred for 2 hours and the solvent was then evaporated. To the residue, dissolved in 210 ml of dichloromethane, were added 7.7 ml of triethylamine and 5.29 g of 1-methylindole-3-acetic acid under a nitrogen atmosphere. After stirring for 18 hours the solvent was evaporated and the residue was purified on silica gel with ethyl acetate/petroleum ether (1:2). Crystallization from ethyl acetate/hexane gave 1.87 g of 3-[1-(2-acetoxyethyl)-3-indolyl]-4-(1-methyl-3-indolyl)furan-2,5-dione, m.p. 198°-199° C.

reactant | oxalyl chloride | 2.57 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(2-acetoxyethyl)indole | 5.7 g | C(C)(=O)OCCN1C=CC2=CC=CC=C12 | C12H13NO2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 3-[1-(2-acetoxyethyl)-3-indolyl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 1.87 g | C(C)(=O)OCCN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C25H20N2O5
